US09169198B2
The above-described method (Example 3) was repeated to stir pentyl 2-amino-5-cyano-3-methylbenzoate (1.50 g, mmol) with methylamine (10.8 g, mmol, 40% in methanol) and sodium methoxide (441 mg, 0.12 mmol, 30% in methanol) at room temperature for 18 hours. The entire reaction batch was vacuum distilled and stirred with diisopropyl ether. 2-Amino-5-cyano-N,3-dimethylbenzamide (0.79 g, 70.6% of theory, 96.4 area % LC) was obtained as a brown solid.

reactant | pentyl 2-amino-5-cyano-3-methylbenzoate | 1.50 g | NC1=C(C(=O)OCCCCC)C=C(C=C1C)C#N | C14H18N2O2
reactant | methylamine | 10.8 g | CN | CH5N
reactant | sodium methoxide | 0.12 mmol, 441 mg | C[O-].[Na+]
product | 2-Amino-5-cyano-N,3-dimethylbenzamide | 0.79 g, 70.6% | NC1=C(C(=O)NC)C=C(C=C1C)C#N | C10H11N3O
